US08633318B2
(4-Chlorophenyl)-(4-chloropyridin-3-yl)-methanone (3.88 g, 15.4 mmol) was dissolved in MeOH (20 mL) at room temperature and hydrazine hydrate (20 mL) was added. The reaction mixture was stirred for 3 h. The precipitate was filtered and purified by recrystallisation from PhMe/MeOH (˜4:1, ˜150 mL) to give 3-(4-chlorophenyl)-1H-pyrazolo[4,3-c]pyridine (1.16 g, 33.0%) as a yellow solid.

reactant | (4-Chlorophenyl)-(4-chloropyridin-3-yl)-methanone | 15.4 mmol, 3.88 g | ClC1=CC=C(C=C1)C(=O)C=1C=NC=CC1Cl | C12H7Cl2NO
reactant | hydrazine hydrate | 20 mL | O.NN
solvent | MeOH | 20 mL | CO | CH4O
product | 3-(4-chlorophenyl)-1H-pyrazolo[4,3-c]pyridine | 1.16 g, 33.0% | ClC1=CC=C(C=C1)C1=NNC2=C1C=NC=C2 | C12H8ClN3
